US04931463
N-formyl-L-leucine (S)-1-[[(2S,3S)-3-decyl-4-oxo-2-oxetanyl]methyl]-4-pentenyl ester;
by esterifying 3-ethyl-4-[(10Z,13Z)-2-hydroxy-10,13-nonadecadienyl)-2-oxetanone with N-formyl-N-methyl-L-leucine there was obtained

reactant | 3-ethyl-4-[(10Z,13Z)-2-hydroxy-10,13-nonadecadienyl)-2-oxetanone | C(C)C1C(OC1CC(CCCCCCC\C=C/C\C=C/CCCCC)O)=O | C24H42O3
reactant | N-formyl-N-methyl-L-leucine | C(=O)N([C@@H](CC(C)C)C(=O)O)C | C8H15NO3
product | N-formyl-L-leucine (S)-1-[[(2S,3S)-3-decyl-4-oxo-2-oxetanyl]methyl]-4-pentenyl ester | C(CCCCCCCCC)[C@H]1[C@@H](OC1=O)C[C@H](CCC=C)OC([C@@H](NC=O)CC(C)C)=O | C26H45NO5
